### PR TITLE
more data structure lemmas

### PR DESCRIPTION
**Pull request by cdisselkoen**
A bunch more data structure lemmas.  These changes were split off #291, but without most of the breaking changes to the Cedar/Thm/Data files, and also taking advantage of the new lemmas in #297 when appropriate.  There are still a few breaking changes in this PR, but only to lemmas introduced in #297, as a compromise due to the simultaneous/duplicated work in #291 and #297.  Also, the changes are isolated to this PR rather than being included with #291.

### CODE REVIEW

File: cedar-lean/Cedar/Thm/Authorization/Authorizer.lean [hunk 1]
```diff
@@ -269,16 +269,6 @@ theorem satisfied_implies_resource_scope {policy : Policy} {request : Request} {
         (and_true_implies_right_true h₁))
   exact resource_eval_ok_means_resource_in_uid h₁ h₂
 
-/--
-  A generic lemma that relates List.mapM to List.map. Not in Std AFAICT.
--/
-theorem if_f_produces_pure_then_mapM_f_is_pure_map {α β} [Monad m] [LawfulMonad m] {f : α → β} {list : List α} :
-  list.mapM ((fun a => pure (f a)) : α → m β) = pure (list.map f)
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Authorization/Authorizer.lean:276]: Moved to Thm/Data/List.lean and renamed `mapM_pure`

File: cedar-lean/Cedar/Thm/Authorization/Authorizer.lean [hunk 2]
```diff
@@ -310,80 +300,56 @@ theorem mapM_asEntityUID_of_uid {uids : List EntityUID} :
...
     rw [List.map_cons, List.mapM_cons]
-    simp [pure, Except.pure, asEntityUID_of_uid, h_ind]
+    simp [pure, Except.pure, asEntityUID_of_uid, ih]
 
 /--
-  A generic lemma about the behavior of List.mapM' in the Except monad
+  Std has `Option.isSome_iff_exists`, but not this analogue for `Except`
 -/
-theorem mapM'_ok_iff_f_ok_on_all_elements {f : α → Except ε β} {list : List α} :
-  Except.isOk (list.mapM' f) ↔ ∀ x ∈ list, Except.isOk (f x)
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Authorization/Authorizer.lean:321]: No longer needed, as #297's `List.mapM'_ok_implies_all_ok` is stronger

File: cedar-lean/Cedar/Thm/Authorization/Authorizer.lean [hunk 3]
```diff
@@ -310,80 +300,56 @@ theorem mapM_asEntityUID_of_uid {uids : List EntityUID} :
...
-        case ok b =>
-          specialize h_ind h₂
-          split at h_ind <;> simp at h_ind
-          case h_1 err h₆ =>
-            simp [h₄, h₆, List.mapM', pure, Except.pure] at h₃
-
-theorem if_mapM'_doesn't_fail_on_list_then_doesn't_fail_on_set [LT α] [DecidableLT α] [StrictLT α] {f : α → Except ε β} {list : List α} :
-  Except.isOk (list.mapM' f) →
-  Except.isOk ((Set.elts (Set.make list)).mapM' f)
-:= by
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Authorization/Authorizer.lean:361]: Reformulated in terms of `mapM` below

File: cedar-lean/Cedar/Thm/Authorization/Authorizer.lean [hunk 4]
```diff
@@ -310,80 +300,56 @@ theorem mapM_asEntityUID_of_uid {uids : List EntityUID} :
...
-  simp [mapM'_ok_iff_f_ok_on_all_elements]
-  intro h₁ y h₂
-  apply h₁ y; clear h₁
-  rw [Set.make_mem]
-  rw [← Set.in_list_iff_in_set]
-  exact h₂
-
-theorem mapM'_asEntityUID_on_set_uids_produces_ok {uids : List EntityUID} :
-  Except.isOk (List.mapM' Value.asEntityUID (Set.elts (Set.make (uids.map (Value.prim ∘ Prim.entityUID)))))
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Authorization/Authorizer.lean:370]: Reformulated in terms of `mapM` below

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 5]
```diff
@@ -114,70 +114,9 @@ theorem filterMap_equiv (f : α → Option β) (xs ys : List α) :
   apply And.intro <;>
   intro b a h₃ h₄ <;>
   exists a <;>
-  simp [h₄]
-  exact h₁ h₃
-  exact h₂ h₃
-
-theorem filterMap_empty_iff_f_returns_none {f : α → Option β} {xs : List α} :
-  xs.filterMap f = [] ↔ ∀ x ∈ xs, f x = none
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:122]: Moved to a dedicated section for `filterMap`, and renamed `filterMap_empty_iff_all_none`.  @emina I don't think the internal development depends on this one; if I am wrong, I can undo the rename.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 6]
```diff
@@ -114,70 +114,9 @@ theorem filterMap_equiv (f : α → Option β) (xs ys : List α) :
...
-        apply h₁ a
-        exact List.mem_cons_of_mem x h₂
-      case h_2 b h₂ =>
-        exfalso
-        specialize h₁ x
-        simp at h₁
-        simp [h₁] at h₂
-
-theorem filterMap_nonempty_iff_exists_f_returns_some {f : α → Option β} {xs : List α} :
-  xs.filterMap f ≠ [] ↔ ∃ x ∈ xs, (f x).isSome
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:155]: Moved to a dedicated section for `filterMap`, and renamed `filterMap_nonempty_iff_exists`.  @emina I don't think the internal development depends on this one; if I am wrong, I can undo the rename.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 7]
```diff
@@ -114,70 +114,9 @@ theorem filterMap_equiv (f : α → Option β) (xs ys : List α) :
...
-  case mpr =>
-    intro h₁ h₂
-    rw [filterMap_empty_iff_f_returns_none] at h₂
-    replace ⟨x, h₁, h₃⟩ := h₁
-    specialize h₂ x h₁
-    simp [h₂, Option.isSome] at h₃
-
-theorem f_implies_g_then_subset {f g : α → Option β} {xs : List α} :
-  (∀ a b, f a = some b → g a = some b) →
-  xs.filterMap f ⊆ xs.filterMap g
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:173]: Moved to a dedicated section for `filterMap`

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 8]
```diff
@@ -745,60 +730,149 @@ theorem any_of_mem {f : α → Bool} {x : α} {xs : List α}
...
+  : List.map (λ x : { a : α // p a } => f x.val) (List.pmap Subtype.mk as h)
+    =
+    List.map f as
 := by
-  simp [mapM₁, attach, mapM_pmap_subtype]
+  induction as <;> simp [*]
 
-theorem mapM_implies_nil {f : α → Except β γ} {as : List α}
-  (h₁ : List.mapM f as = Except.ok []) :
-  as = []
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:779]: Not removed, just moved

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 9]
```diff
@@ -745,60 +730,149 @@ theorem any_of_mem {f : α → Bool} {x : α} {xs : List α}
...
+    List.all as f
 := by
-  rw [←List.mapM'_eq_mapM]
   induction as <;> simp [*]
 
-theorem mapM₁_eq_mapM [Monad m] [LawfulMonad m]
-  (f : α → m β)
-  (as : List α) :
-  List.mapM₁ as (fun x : { x // x ∈ as } => f x.val) =
-  List.mapM f as
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:773]: Not removed, just moved

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 10]
```diff
@@ -841,73 +915,323 @@ theorem forall₂_implies_all_right {α β} {R : α → β → Prop} {xs : List
       exists x
       simp only [mem_cons, ih, or_true, and_self]
 
-/-! ### mapM' -/
+/-! ### mapM, mapM', and mapM₁ -/
 
-theorem mapM'_ok_implies_forall₂ {α β γ} {f : α → Except γ β} {xs : List α} {ys : List β} :
-  List.mapM' f xs = .ok ys →
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:847]: I needed the converse as well, so I made this an iff and renamed it `mapM'_ok_iff_forall2`.  This lemma was introduced in #297.  I reformulated the proofs in #291 (and here) to rely on this lemma instead of the other lemmas in #291.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 11]
```diff
@@ -841,73 +915,323 @@ theorem forall₂_implies_all_right {α β} {R : α → β → Prop} {xs : List
...
   List.mapM' f xs = .ok ys →
   ∀ y ∈ ys, ∃ x ∈ xs, f x = .ok y
 := by
   intro h
-  exact forall₂_implies_all_right (mapM'_ok_implies_forall₂ h)
+  exact forall₂_implies_all_right (mapM'_ok_iff_forall₂.mp h)
 
-theorem mapM'_some_implies_forall₂ {α β} {f : α → Option β} {xs : List α} {ys : List β} :
-  List.mapM' f xs = .some ys →
-  List.Forall₂ (λ x y => f x = .some y) xs ys
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:884]: I needed the converse as well, so I made this an iff and renamed it `mapM'_some_iff_forall2`. This lemma was introduced in https://github.com/cedar-policy/cedar-spec/pull/297. I reformulated the proofs in https://github.com/cedar-policy/cedar-spec/pull/291 (and here) to rely on this lemma instead of the other lemmas in https://github.com/cedar-policy/cedar-spec/pull/291.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 12]
```diff
@@ -1158,40 +1486,7 @@ theorem mem_of_sortedBy_unique {α β} [LT β] [StrictLT β] [DecidableLT β] [D
...
--/
-
-theorem map_pmap_subtype
-  {p : α → Prop}
-  (f : α → β)
-  (as : List α)
-  (h : ∀ a, a ∈ as → p a)
-  : List.map (fun x : { a : α // p a } => f x.val) (List.pmap Subtype.mk as h)
-    =
-    List.map f as
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:1174]: Moved to the `map` section (instead of a dedicated section for "copied from Mathlib")

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 13]
```diff
@@ -1158,40 +1486,7 @@ theorem mem_of_sortedBy_unique {α β} [LT β] [StrictLT β] [DecidableLT β] [D
...
-  induction as <;> simp [*]
-
-theorem all_pmap_subtype
-  {p : α → Prop}
-  (f : α → Bool)
-  (as : List α)
-  (h : ∀ a, a ∈ as → p a)
-  : List.all (List.pmap Subtype.mk as h) (fun x : { a : α // p a } => f x.val)
-    =
-    List.all as f
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:1185]: Moved to the `all` section (instead of a dedicated section for "copied from Mathlib")

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 14]
```diff
@@ -1158,40 +1486,7 @@ theorem mem_of_sortedBy_unique {α β} [LT β] [StrictLT β] [DecidableLT β] [D
...
-:= by
-  induction as <;> simp [*]
-
-theorem map_congr {f g : α → β} : ∀ {l : List α},
-  (∀ x ∈ l, f x = g x) → map f l = map g l
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List.lean:1190]: Moved to the `map` section (instead of a dedicated section for "copied from Mathlib")

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 15]
```diff
@@ -47,7 +84,85 @@ theorem wf_iff_sorted {α β} [LT α] [DecidableLT α] [StrictLT α] {m : Map α
...
+  `make` on equivalent lists of (k,v) pairs produces equal maps
+
+  (Organizationally belongs in the `make` section, but is needed before that)
+-/
+theorem make_eqv [LT α] [DecidableLT α] {xs ys : List (α × β)}:
+  xs ≡ ys →
+  Map.make xs = Map.make ys
+:= by
+  intro h; unfold make; simp
+  sorry
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean:118]: The one `sorry` in this PR.  I will continue working on this, but help/advice is also appreciated.

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 16]
```diff
@@ -85,59 +224,128 @@ theorem make_mem_list_mem [LT α] [StrictLT α] [DecidableLT α] {xs : List (α
...
 := by
-  simp [Map.WellFormed] at h₁
-  simp [Map.mapOnValues, Map.toList, Map.kvs, Map.make] at *
-  rw [h₁] ; simp only ; rw [eq_comm]
-  have h₂ : Prod.map id f = (fun (x : α × β) => (x.fst, f x.snd)) := by unfold Prod.map ; simp only [id_eq]
-  simp only [← h₂, ← List.canonicalize_of_map_fst, List.canonicalize_idempotent]
-
-theorem find?_mem_toList {α β} [LT α] [DecidableLT α] [DecidableEq α] {m : Map α β} {k : α} {v : β}
-  (h₁ : m.find? k = .some v) :
-  (k, v) ∈ m.toList
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean:132]: Not removed and not broken, just moved farther up, as I needed it farther up

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 17]
```diff
@@ -164,31 +372,279 @@ theorem mapOnValues_contains {α β γ} [LT α] [DecidableLT α] [DecidableEq α
...
-/-! ### sizeOf -/
+theorem findOrErr_ok_iff_find?_some [LT α] [DecidableLT α] [DecidableEq α] {m : Map α β} {k : α} {v : β} {e : Error} :
+  m.findOrErr k e = .ok v ↔ m.find? k = some v
+:= by
+  unfold findOrErr
+  cases m.find? k <;> simp
 
-theorem sizeOf_lt_of_value [SizeOf α] [SizeOf β] {m : Map α β} {k : α} {v : β}
-  (h : (k, v) ∈ m.1) :
-  sizeOf v < sizeOf m
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean:172]: Moved the entire `sizeOf` section to the top instead of the bottom, as I needed some `sizeOf` facts elsewhere in this file.

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 18]
```diff
@@ -164,31 +372,303 @@ theorem mapOnValues_contains {α β γ} [LT α] [DecidableLT α] [DecidableEq α
...
+  intro wf h₁
+  have h₂ := mapMOnValues_preserves_keys h₁
+  exact (List.map_eq_implies_sortedBy h₂).mp wf
+
+/--
+  Alternate proof of `mapMOnValues_wf`, that relies on
+  `List.mapM_some_eq_filterMap` instead of `mapMOnValues_preserves_keys`. Which do
+  we prefer?
+-/
+theorem mapMOnValues_wf_alt_proof [LT α] [DecidableLT α] [StrictLT α] {f : β → Option γ} {m₁ : Map α β} {m₂ : Map α γ} :
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean:475]: Thread for discussion of the two proofs of `mapMOnValues_wf`

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 19]
```diff
@@ -164,31 +372,303 @@ theorem mapOnValues_contains {α β γ} [LT α] [DecidableLT α] [DecidableEq α
...
+  simp only at *
+  subst k'
+  exists v'
+
+/--
+  alternate proof of `mapMOnValues_some_implies_all_some`, which instead of
+  relying on `mapMOnValues_some_implies_forall₂`, relies on
+  `List.mapM_some_implies_all_some`.  Which do we prefer?
+-/
+theorem mapMOnValues_some_implies_all_some_alt_proof [LT α] [DecidableLT α] {f : β → Option γ} {m₁ : Map α β} {m₂ : Map α γ} :
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Map.lean:567]: Thread for discussion of the two proofs of `mapMOnValues_some_implies_all_some`

File: cedar-lean/Cedar/Thm/Authorization/Authorizer.lean (hunk 2 above)
Comment (khieta) [reply cedar-lean/Cedar/Thm/Authorization/Authorizer.lean:321]: Actually I think this is the stronger version since it's a bijection rather than an implication. Still good to remove if not needed though.

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean [hunk 20]
```diff
@@ -118,14 +117,14 @@ theorem ways_and_can_error {e₁ e₂ : Expr} {request : Request} {entities : En
...
-            simp [h_e₂, evaluate, Result.as, Coe.coe, Value.asBool, Lean.Internal.coeM, pure, Except.pure] at h₁ <;>
+            simp [h_e₂, evaluate, Result.as, Value.asBool, pure, Except.pure] at h₁ <;>
             simp [h₁]
             case prim prim =>
               cases prim <;>
               simp [h_e₂] at h₁ <;>
               simp [h₁]
           | error e =>
-            simp [h_e₂, Lean.Internal.coeM] at h₁
+            simp only [h_e₂, ↓reduceIte, Except.bind_err, Except.error.injEq] at h₁
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:127]: Lean noob question: is the downward arrow some special syntax?

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 21]
```diff
@@ -1203,4 +1498,65 @@ theorem filterMap_congr {f g : α → Option β} : ∀ {l : List α},
...
+        intro a h₂
+        apply h₁ a
+        exact List.mem_cons_of_mem hd h₂
+      case h_2 b h₂ =>
+        exfalso
+        specialize h₁ hd
+        simp only [mem_cons, true_or, forall_const] at h₁
+        simp [h₁] at h₂
+
+theorem filterMap_nonempty_iff_exists {f : α → Option β} {xs : List α} :
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:1560]: Nit: I feel like `*_exists_some` would be a little more pretty & symmetric with `*_all_none`

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 15 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:118]: I believe I have a proof that this lemma actually is _not valid_.  I discovered this by noticing that the `Set` equivalent (`Set.make_make_eqv`) relies on `List.equiv_implies_canonical_eq`, and working out that `List.equiv_implies_canonical_eq` _does not hold_ for `Prod.fst` (see comments on `List.equiv_implies_canonical_eq` added in this PR).

Specifically, consider
```
  xs = [(1, false), (1, true)]
  ys = [(1, true), (1, false)]
```
Even though `xs ≡ ys`, after `Map.make`, in one map, `1` will map to `false`, and in the other, `1` will map to `true`.

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:118]: Now the question is, how many other lemmas that currently rely on `Map.make_eqv` can we save.

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 22]
```diff
@@ -85,59 +224,128 @@ theorem make_mem_list_mem [LT α] [StrictLT α] [DecidableLT α] {xs : List (α
...
+
 theorem make_nil_is_empty {α β} [LT α] [DecidableLT α] :
   (Map.make [] : Map α β) = Map.empty
 := by simp [make, empty, List.canonicalize_nil]
 
+/--
+  Note that the converse of this is not true:
+  counterexample `xs = [(1, false)]`, `ys = []`, `ab = (1, false)`.
+-/
+theorem make_cons [LT α] [DecidableLT α] {xs ys : List (α × β)} {ab : α × β} :
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/Map.lean:256]: Maybe change to `make_cons_pair` to distinguish from `make_cons` in Set.lean?

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 23]
```diff
@@ -85,59 +224,128 @@ theorem make_mem_list_mem [LT α] [StrictLT α] [DecidableLT α] {xs : List (α
...
+  rename_i h₂
+  have h₃ := List.find?_some h₂
+  simp only [beq_iff_eq] at h₃ ; subst h₃
+  exact List.mem_of_find?_eq_some h₂
+
+/--
+  The `mpr` direction of this does not need the `wf` precondition and, in fact,
+  is available separately as `find?_mem_toList` above
+-/
+theorem in_list_some_find? [DecidableEq α] [LT α] [DecidableLT α] [StrictLT α] {k : α} {v : β} {m : Map α β}
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/Map.lean:280]: Nit: `in_list_iff_find?_some`

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 24]
```diff
@@ -164,31 +372,303 @@ theorem mapOnValues_contains {α β γ} [LT α] [DecidableLT α] [DecidableEq α
...
+    replace ⟨(a', g), h₃, h₄⟩ := h₃ (a, b) h₂
+    simp only [Option.pure_def, Option.bind_eq_bind, Option.bind_eq_some, Option.some.injEq,
+      Prod.mk.injEq, exists_eq_right_right] at h₄
+    replace ⟨h₄, h₄'⟩ := h₄
+    subst a'
+    exists g
+
+theorem mapMOnValues_some_implies_all_from_some [LT α] [DecidableLT α] {f : β → Option γ} {m₁ : Map α β} {m₂ : Map α γ} :
+  m₁.mapMOnValues f = some m₂ →
+  ∀ kv ∈ m₂.kvs, ∃ v, (kv.fst, v) ∈ m₁.kvs ∧ f v = kv.snd
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/Map.lean:590]: Pretty similar in form to `mapMOnValues_some_implies_all_some`. Do you really need both? Is there a way to combine them into one statement?

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 25]
```diff
@@ -164,31 +372,303 @@ theorem mapOnValues_contains {α β γ} [LT α] [DecidableLT α] [DecidableEq α
...
+    simp only
+    replace h₃ := List.mapM_some_implies_all_from_some h₃
+    replace ⟨(a', b), h₃, h₄⟩ := h₃ (a, g) h₂
+    simp only [Option.pure_def, Option.bind_eq_bind, Option.bind_eq_some, Option.some.injEq,
+      Prod.mk.injEq, exists_eq_right_right] at h₄
+    replace ⟨h₄, h₄'⟩ := h₄
+    subst a'
+    exists b
+
+theorem mapMOnValues_none_iff_exists {α : Type 0} [LT α] [DecidableLT α] {f : β → Option γ} {m : Map α β} :
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/Map.lean:626]: Nit: `*_iff_exists_none`

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 26]
```diff
@@ -841,73 +941,323 @@ theorem forall₂_implies_all_right {α β} {R : α → β → Prop} {xs : List
...
+  exact forall₂_implies_all_right (mapM'_some_iff_forall₂.mp h)
+
+theorem mapM_some_implies_all_from_some {α β} {f : α → Option β} {xs : List α} {ys : List β} :
+  List.mapM f xs = .some ys →
+  ∀ y ∈ ys, ∃ x ∈ xs, f x = .some y
+:= by
+  rw [← List.mapM'_eq_mapM]
+  exact mapM'_some_implies_all_from_some
+
+theorem mapM'_none_iff_exists {α β} {f : α → Option β} {xs : List α} :
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:1224]: Nit: `*_iff_exists_none`

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 27]
```diff
@@ -841,73 +941,323 @@ theorem forall₂_implies_all_right {α β} {R : α → β → Prop} {xs : List
...
+      simp only [mapM'_cons, Option.pure_def, Option.bind_eq_bind, Option.bind_eq_none]
+      intro yhd h₃ ytl h₄
+      rcases h₁ with h₁ | h₁
+      case inl => subst h₁ ; simp [h₂] at h₃
+      case inr =>
+        replace h₄ := mapM'_some_implies_all_some h₄
+        replace ⟨y, _, h₅⟩ := h₄ x h₁
+        simp [h₂] at h₅
+
+theorem mapM_none_iff_exists {α β} {f : α → Option β} {xs : List α} :
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:1256]: Nit: `*_iff_exists_none`

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 28]
```diff
@@ -841,73 +941,323 @@ theorem forall₂_implies_all_right {α β} {R : α → β → Prop} {xs : List
...
+-/
 theorem mapM'_some_implies_all_from_some {α β} {f : α → Option β} {xs : List α} {ys : List β} :
   List.mapM' f xs = .some ys →
   ∀ y ∈ ys, ∃ x ∈ xs, f x = .some y
 := by
   intro h
-  exact forall₂_implies_all_right (mapM'_some_implies_forall₂ h)
+  exact forall₂_implies_all_right (mapM'_some_iff_forall₂.mp h)
+
+theorem mapM_some_implies_all_from_some {α β} {f : α → Option β} {xs : List α} {ys : List β} :
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:1217]: Why the "from" in the lemma name?

**Review by khieta — COMMENTED** [review]
Left some small (marginally useful) comments. Best of luck filling in the `sorry`! I don't have capacity to hack on the proof this week, but could play with it next week if there's anything left to do.

File: cedar-lean/Cedar/Thm/Authorization/Authorizer.lean (hunk 2 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Authorization/Authorizer.lean:321]: I guess they're incomparable.  This version is stronger in that it's a bijection, but weaker in that it only promises `Except.isOk` while the other lemma promises things about the actual values.

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean (hunk 20 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:127]: Not sure myself.  `simp?` suggested this

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:127]: When I mouse over it tells me it tells Lean to apply this before entering the binders instead of after

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 21 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean]: Updated.

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 22 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:256]: This one is `Map.make_cons` and that one is `Set.make_cons`, is that enough to distinguish?  They're basically the same theorem but for `Map.make` and `Set.make` respectively

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 23 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean]: Updated

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 25 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean]: Updated

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 26 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean]: Updated

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 27 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean]: Updated

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 15 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:118]: I think `eq_iff_kvs_equiv` should still be true, it just needs a different proof that doesn't rely on `make_eqv`.  At a minimum, I don't think the counterexample above falsifies `eq_iff_kvs_equiv`.

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:118]: Found a proof of `eq_iff_kvs_equiv` that uses `List.sortedBy_equiv_implies_eq` instead.

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean [hunk 29]
```diff
@@ -57,16 +57,15 @@ theorem and_true_implies_right_true {e₁ e₂ : Expr} {request : Request} {enti
   simp [evaluate, h₂, Result.as, Coe.coe, Value.asBool] at h₁
   generalize h₃ : (evaluate e₂ request entities) = r₂
   simp [h₃] at h₁
-  cases r₂ <;> simp [Lean.Internal.coeM] at h₁
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:60]: It is so nice to see these go away!

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 30]
```diff
@@ -103,8 +103,8 @@ theorem map_equiv (f : α → β) (xs ys : List α) :
   exists p <;>
   rw [List.subset_def] at a b <;>
   simp only [and_true]
-  exact a h
-  exact b h
+  case left  => exact a h
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List.lean:106]: A very minor suggestion that can be safely ignored:  For these very short proofs about cases,  I prefer to use the `.` notation to separate them out instead of explicitly spelling out the case.  In VSCode, you type `\.` to  generate the bullet point anonymous case marker.  It looks cool :)

```
simp only [and_true]
· exact a h  
· exact b h  
```

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 11 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/List.lean:884]: If we're removing or renaming existing lemmas, let's leave the old name and signature in place, marked as `@[deprecated]`.  See [here](https://github.com/leanprover/std4/blob/f58165d3d6e0b048d89e56944e98d9054b223d9b/Std/Data/BitVec/Lemmas.lean#L13-L14) for an example.

This will make it easier to fix the internal code.  Without that, Lean tells us that the old name is missing, but it can be hard to figure out / remember what's supposed to replace the old name in a 1,000+ LOC file :) 

Once the internal code is patched, I can put up a new PR that removes all the deprecated lemmas.

Alternatively, if we don't want to deal with `@[deprecated]` tags, let's adopt some commenting convention that's easy to grep for / remove, which can help figure out the mapping of old names to new names.

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 28 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/List.lean:1217]: > While the `*_implies_all_some` lemmas state that every element of the input list has a corresponding element in the output list, the `*_implies_all_from_some` lemmas state that every element of the output list has a corresponding element in the input list.

Yes, that was the rationale:  input / output distinction.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 31]
```diff
@@ -1056,8 +1412,7 @@ theorem find?_pair_map {α β γ} [BEq α] (f : β → γ) (xs : List (α × β)
   List.find? (λ x => x.fst == k) (List.map (λ x => (x.fst, f x.snd)) xs)
 := by
   induction xs
-  case nil =>
-    simp only [find?_nil, Option.map_none', map_nil]
+  case nil => simp
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List.lean:1415]: These "bare simps" make me nervous.  Can we revert to `simp only`? :). Note that we use `simp only` elsewhere in this proof to close goals.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 32]
```diff
@@ -1066,27 +1421,26 @@ theorem find?_pair_map {α β γ} [BEq α] (f : β → γ) (xs : List (α × β)
...
-  List.find? (fun x => x.fst == k) (List.map (Prod.map id f) xs) = .some fx  →
-  ∃ x, xs.find? (fun x => x.fst == k) = .some x ∧ fx = Prod.map id f x
+  List.find? (λ x => x.fst == k) (List.map (Prod.map id f) xs) = .some fx  →
+  ∃ x, xs.find? (λ x => x.fst == k) = .some x ∧ fx = Prod.map id f x
 := by
   intro h
   induction xs
-  case nil =>
-    simp only [map_nil, find?_nil] at h
+  case nil => simp at h
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List.lean:1443]: I'd prefer to leave `simp only` in place, with the goal of eventually replacing (nearly) all `simp`s with `simp only` (as we encounter them).  They are uglier, admittedly, but really good for proof stability.  I'm guessing they improve efficiency too, since search is limited to the `only` lemmas.

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 33]
```diff
@@ -1100,7 +1454,7 @@ theorem find?_fst_map_implies_find? {α β γ} [BEq α] {f : β → γ} {xs : Li
       replace ⟨x, ih⟩ := ih h
       exists x
       simp only [Prod.map, id_eq] at heq
-      simp only [find?_cons, heq, ih, and_self]
+      simp [find?_cons, heq, ih]
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List.lean:1457]: Same as above:  let's leave `simp only` in place.

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 18 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/Map.lean:470]: I don't have strong feelings on this one.  The `mapMOnValues_wf` proof is shorter than the `alt` version because it pushes the complexity into `mapMOnValues_preserves_keys`.  If this is the only use case for `mapMOnValues_preserves_keys`, I'd be tempted to go for the `alt` proof and delete the special-purpose lemma.

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 19 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/Map.lean:562]: Same comment as above :). No strong feelings but my preference is to have fewer specialized lemmas that aren't used anywhere else.  (Obviously, there is a limit to this rule-of-thumb, and I do have super long proofs that are broken into many single-use lemmas---though in that case, I make those `private`.)

**Review by emina — CHANGES_REQUESTED** [review]
LGTM.  Main request for changes: 

* Let's leave `simp only`s in place (and not replace them with `simp`s).
* If a theorem is renamed, either leave the old version as `@[deprecated]` in place, with a pointer to the updated one.  Or, if we don't want to deal with that, let's adopt some greppable commenting style that says which new names are to replace which old names---this really helps with updating internal code.  Otherwise, it's hard to remember / hunt down the new name to use when the old one goes away and breaks the proof.

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 11 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean:884]: Very reasonable.  Did this for this theorem and the one I commented on above; let me know if there are other instances where we need a deprecated alias.

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 18 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:470]: This is the only use case for `mapMOnValues_preserves_keys`, but my hesitation is that since we've gone through the trouble to prove it now, we might want to keep it in case it is useful in the future.  Or maybe it's just super unlikely to be useful in the future?

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 19 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Map.lean:562]: Wait is there a `private` keyword in Lean?

In this case, unlike in the above case, neither of the lemmas these proofs rely on exist solely for this proof's benefit.  Schematically, we have
```
A ---- B
|      |
C ---- D
```
This is A, we need proofs of A,B,C,D, and we can choose whether to prove A "through" B or "through" C.  

(In the figure, the top row is Map lemmas, the bottom row is List lemmas, the left side is mapM[OnValues] lemmas, the right side is `forall2` lemmas.)

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean (hunk 29 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:60]: Pretty sure Lean 4.6 or 4.7 newly enabled omitting the `Lean.Internal.coeM` and friends

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 30 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean:106]: Looks good to me!  Made a pass doing this.  When the case names are informative (`nil`, `cons`, `some`, `none`, etc) I like having them there, but when they are not (looking at you, `split` and `rcases`) I like this notation when the proofs in each case are short.

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 31 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean:1409]: Plenty of "bare simps" existing before this PR (including in this file), but I'll do a pass

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean:1409]: Noting that we have said previously that `simp` to close a goal (as here) should be perfectly stable

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean]: Pushed a pass removing some bare simps

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean]: There's a lot of other `simp` that don't have `simp only`, including in this file.  Can we not block this PR on this issue, and just make an issue to follow up?

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 18 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/Map.lean:470]: Not sure.  I haven't needed it in the large internal coebase :). But I don't see harm in keeping it.

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 19 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/Map.lean:562]: Yeah, the `private` keyword is great:  it limits the visibility of the theorem / definition to the defining module.  

Wish it worked for macros!

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 32 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/List.lean:1438]: Fixed, and see comment thread above

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean (hunk 29 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Authorization/Evaluator.lean:60]: Yes, it was the update for the win!

File: cedar-lean/Cedar/Thm/Data/List.lean (hunk 31 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/List.lean]: Definitely no need to block this PR on old bare `simp`s.  I should have been clearer:  my goal is to not introduce new ones and get rid of old ones eventually :)

**Review by emina — APPROVED** [review]

**Review by khieta — COMMENTED** [review]
Agreed that removing `case left =>` and `case right =>` when possible makes things prettier.

Approving now so you'll meet the approval requirement once @emina signs off.

**Review by khieta — APPROVED** [review]
Oops, forgot to check "approve".
